US06297260B1
1a. Phenylmethyl 2-(4-oxopiperidyl)acetate
To a stirred suspension of 4-piperidone (10.0 g, 65.0 mmol) and bromobenzyl acetate (14.9 g, 65.2 mmol) in acetone (100 ml) was added K2CO3 (9.0 g) and Et3N (9.1 ml, 65.2 mmol). The reaction mixture was stirred at room temperature for two days, and then the solvent was evaporated. The residue was partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc. The organic extracts were combined and dried over Na2SO4. The solvent was evaporated to afford the title compound (13.3 g, 53.8 mmol, 83%) as a thick oil. 1H NMR (300 MHz, CDCl3) δ 7.33-7.37 (m, 5H), 5.18 (s, 2H), 3.42 (s, 2H), 2.91 (t, J=6.1 Hz, 4H), 2.50 (t, J=6.1 Hz, 4H).

reactant | 4-piperidone | 65.0 mmol, 10.0 g | N1CCC(CC1)=O | C5H9NO
reactant | bromobenzyl acetate | 65.2 mmol, 14.9 g | C(C)(=O)OC(C1=CC=CC=C1)Br | C9H9BrO2
reactant | K2CO3 | 9.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Et3N | 65.2 mmol, 9.1 ml | CCN(CC)CC | C6H15N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | Phenylmethyl 2-(4-oxopiperidyl)acetate | 53.8 mmol, 13.3 g, 83% | O=C1CCN(CC1)CC(=O)OCC1=CC=CC=C1 | C14H17NO3
